US08211919B2
To a mixture of ethyl[(2-oxo-2-{[4-(4-pyridinyl)phenyl]amino}ethyl)(phenyl)amino]acetate (40.8 mg) in methanol (0.60 mL) was added 1N sodium hydroxide aqueous solution (0.157 mL) at ambient temperature and the mixture was stirred at ambient temperature overnight. The mixture was neutralized with 1N hydrochloric acid and the precipitate was collected by filtration. The solid was washed with n-hexane/ethyl acetate (1:1, 1.0 mL) to afford [(2-oxo-2-{[4-(4-pyridinyl)phenyl]amino}ethyl) (phenyl)amino]acetic acid (24.8 mg) as white crystals.

reactant | ethyl[(2-oxo-2-{[4-(4-pyridinyl)phenyl]amino}ethyl)(phenyl)amino]acetate | 40.8 mg | C(C)OC(CN(C1=CC=CC=C1)CC(NC1=CC=C(C=C1)C1=CC=NC=C1)=O)=O | C23H23N3O3
reactant | sodium hydroxide | 1N, 0.157 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 0.60 mL | CO | CH4O
product | [(2-oxo-2-{[4-(4-pyridinyl)phenyl]amino}ethyl) (phenyl)amino]acetic acid | 24.8 mg | O=C(CN(C1=CC=CC=C1)CC(=O)O)NC1=CC=C(C=C1)C1=CC=NC=C1 | C21H19N3O3
